US08686048B2
Intermediate 42: 3,3′-dichloro-5-fluoro-5′-methoxybiphenyl-4-amine
The title compound (41 mg) was prepared from 4-bromo-2-chloro-6-fluoroaniline (100 mg, 0.44 mmol) and 3-chloro-5-methoxyphenylboronic acid (107 mg, 0.57 mmol) as a pale-yellow solid.

reactant | 4-bromo-2-chloro-6-fluoroaniline | 0.44 mmol, 100 mg | BrC1=CC(=C(N)C(=C1)F)Cl | C6H4BrClFN
reactant | 3-chloro-5-methoxyphenylboronic acid | 0.57 mmol, 107 mg | ClC=1C=C(C=C(C1)OC)B(O)O | C7H8BClO3
product | 3,3′-dichloro-5-fluoro-5′-methoxybiphenyl-4-amine | 41 mg | ClC=1C=C(C=C(C1N)F)C1=CC(=CC(=C1)OC)Cl | C13H10Cl2FNO
